US08703808B2
To a suspension of NaH (780 mg, 80%, 26 mmol, 1.6 eq.) in anhydrous THF (50 mL) were added, under an argon atmosphere, (5-methoxy-1H-indol-3-yl)-acetonitrile (3 g, 16 mmol, 1.0 eq.) and, after 30 minutes stirring at room temperature, methyl nicotinate (2.9 g, 21 mmol, 1.3 eq.). The reaction mixture was heated in a sealed tube at 60° C. for 13 hours. The reaction was allowed to cool to room temperature and then, treated with a saturated aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate and the organic layer was washed with water and brine, and then dried over MgSO4. The solvent was removed under reduced pressure, and the residue purified by silica gel flash-column chromatography (eluent: CH2Cl2/EtOH, 96/4 to 95/5) to afford 3-hydroxy-2-(5-methoxy-1H-indol-3-yl)-3-(pyridin-3-yl)acrylonitrile as orange specks (2.5 g, 53%, E/Z ratio: 85/15).

reactant | NaH | 26 mmol, 780 mg, 1.6 eq. | [H-].[Na+]
reactant | (5-methoxy-1H-indol-3-yl)-acetonitrile | 16 mmol, 3 g, 1.0 eq. | COC=1C=C2C(=CNC2=CC1)CC#N | C11H10N2O
reactant | methyl nicotinate | 21 mmol, 2.9 g, 1.3 eq. | C(C1=CN=CC=C1)(=O)OC | C7H7NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-2-(5-methoxy-1H-indol-3-yl)-3-(pyridin-3-yl)acrylonitrile | OC(=C(C#N)C1=CNC2=CC=C(C=C12)OC)C=1C=NC=CC1 | C17H13N3O2
